US08492405B2
To a solution of triphenylphosphine oxide (1.5 g) in dichloromethane (20 mL) was slowly added trifluoromethanesulfonic anhydride (0.45 mL) at 0° C., and the mixture was stirred for 10 min. N-{[4-(Benzylthio)piperidin-4-yl]methyl}-2-methyl-3-[methyl(2-thienylsulfonyl)amino]-4H-thieno[3,2-b]pyrrole-5-carboxamide (1.03 g) was added, and the mixture was stirred at room temperature for 3 hr and concentrated. Saturated aqueous sodium hydrogen carbonate was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography to give N-methyl-N-[2-methyl-5-(1-thia-3,8-diazaspiro[4.5]deca-2-en-2-yl)-4H-thieno[3,2-b]pyrrol-3-yl]thiophene-2-sulfonamide (240 mg, yield 29%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio). melting point 196° C.

reactant | triphenylphosphine oxide | 1.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | trifluoromethanesulfonic anhydride | 0.45 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N-{[4-(Benzylthio)piperidin-4-yl]methyl}-2-methyl-3-[methyl(2-thienylsulfonyl)amino]-4H-thieno[3,2-b]pyrrole-5-carboxamide | 1.03 g | C(C1=CC=CC=C1)SC1(CCNCC1)CNC(=O)C1=CC2=C(N1)C(=C(S2)C)N(S(=O)(=O)C=2SC=CC2)C | C26H30N4O3S4
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-methyl-N-[2-methyl-5-(1-thia-3,8-diazaspiro[4.5]deca-2-en-2-yl)-4H-thieno[3,2-b]pyrrol-3-yl]thiophene-2-sulfonamide | 240 mg, yield 29% | CN(S(=O)(=O)C=1SC=CC1)C1=C(SC2=C1NC(=C2)C=2SC1(CN2)CCNCC1)C | C19H22N4O2S4
